US07098343B2
4-[(10-Bromo-decyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile (CAB03008)
Sodium hydride (60%, 240 mg, 6.0 mmol) was added to a solution of 4-([1,2,4]triazol-4-ylamino)-benzonitrile (926 mg, 5.0 mmol) in DMSO (25 mL) at r.t. The mixture was stirred for 1 hour at this temperature and 1,10-dibromodecane (5 mL) was added. The reaction mixture was stirred overnight and ethyl acetate (100 mL) was added. The mixture was transferred into a separation funnel and extracted with water (twice 100 mL) and brine (20 mL). The organic layer was dried over sodium sulphate and concentrated under reduced pressure (water bath temperature <30° C.). The resulting orange oil was mixed with diethyl ether (100 mL) and filtered through a layer of silica (ca. 5 cm). The silica was washed with more diethyl ether (ca. 100 mL) to remove the excess of 1,10-dibromodecane. The crude product was washed from the silica with acetone (120 mL). The acetone solution was concentrated under reduced pressure and the residue was purified by column-chromatography (eluent: ethyl acetate) to give the title compound as a pale yellow solid. Yield: 1.32 g (65%). 1H-NMR (400 MHz, d6-DMSO) δ=1.16-1.40 (m, 14H), 1.76 (tt, J=7.0, 7.0 Hz, 2H), 3.50 (t, J=6.6 Hz, 2H), 3.79 (t, J=7.0 Hz, 2H), 6.61 (d, J=9.0 Hz, 2H), 7.70 (d, J=9.0 Hz, 2H), 8.95 (s, 2H). 4-{[10-(4-Hydroxy-phenylsulfanyl)-decyl]-[1,2,4]triazol-4-yl-amino}-benzonitrile (CAB03011, STX625)

reactant | Sodium hydride | 6.0 mmol, 240 mg | [H-].[Na+]
reactant | 4-([1,2,4]triazol-4-ylamino)-benzonitrile | 5.0 mmol, 926 mg | N=1N=CN(C1)NC1=CC=C(C#N)C=C1 | C9H7N5
reactant | 1,10-dibromodecane | 5 mL | BrCCCCCCCCCCBr | C10H20Br2
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
product | 4-[(10-Bromo-decyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile | BrCCCCCCCCCCN(C1=CC=C(C#N)C=C1)N1C=NN=C1 | C19H26BrN5
